US07501417B2
A solution of 1-isocyanato-4-methyl-benzene (0.051 mol) in DCM p.a. (75 ml) was added dropwise to a solution of 4-(1-piperazinyl)-benzoic acid, ethyl ester (0.043 mol) and triethylamine (0.051 mol) in DCM p.a. (75 ml) while stirring at 0° C. (ice) for 20 minutes. The reaction mixture was stirred at room temperature for 1 hour and was then extracted with water. The organic layer was extracted with a saturated NaCl-solution and again with water, then separated, dried (MgSO4), filtered off and the filtrate was evaporated. The residue was stirred in DIPE and the formed precipitate was filtered off, washed with DIPE and dried. A part (0.5 g) of the residue (14.3 g, 90%) was crystallized from 2-propanol (10 ml) and the formed precipitate was filtered off and dried, yielding 0.42 g of 4-[4-[[(4-methylphenyl)amino]carbonyl]-1-piperazinyl]-benzoic acid, ethyl ester (interm. 1).

reactant | 1-isocyanato-4-methyl-benzene | 0.051 mol | N(=C=O)C1=CC=C(C=C1)C | C8H7NO
reactant | 4-(1-piperazinyl)-benzoic acid, ethyl ester | 0.043 mol | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
reactant | triethylamine | 0.051 mol | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[4-[[(4-methylphenyl)amino]carbonyl]-1-piperazinyl]-benzoic acid, ethyl ester | 0.42 g | CC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C21H25N3O3
